US07247626B2
To a cold (−78° C.) solution of 4-[2-(3-chlorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-N-cyclopentyl-2-pyrimidinamine (267 mg, 0.683 mmol) in tetrahydrofuran (8 mL) was added lithium diisopropylamide (12.8 mL, 0.16 M in tetrahydrofuran, 2.05 mmol, made from 5 mL n—BuLi (1.6 M in hexanes) and 1.19 mL diisopropylamine in 43.5 mL tetrahydrofuran at 0° C.) dropwise. The reaction mixture was stirred at −78° C. for 10 minutes followed by the addition of methyl disulfide (246 μL, 2.73 mmol). The resultant mixture was stirred at −78° C. for 10 minutes then quenched with water. Upon warming to room temperature, the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (4:1 to 3:1 hexanes:ethyl acetate) provided 4-[2-(3-chlorophenyl)-7-(methylthio)pyrazolo[1,5-c]pyrimidin-3-yl]-N-cyclopentylpyrimidin-2-amine (171 mg, 57%) as a white solid. Rf 0:10 (4:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 8.12 (d, 1H), 7.99–7.91 (m, 2H), 7.73 (s,1H), 7.51 (d, 1H), 7.48–7.34 (m, 2H), 6.35 (d,1H), 5.19 (d, 1H), 4.30 (m, 1H), 2.76 (s, 3H), 2.05 (m, 2H), 1.82–1.50 (m, 6H); MS m/z 437 (M+1).

reactant | 4-[2-(3-chlorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.683 mmol, 267 mg | ClC=1C=C(C=CC1)C1=NN2C=NC=CC2=C1C1=NC(=NC=C1)NC1CCCC1 | C21H19ClN6
reactant | lithium diisopropylamide | 2.05 mmol, 0.16 M, 12.8 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl disulfide | 2.73 mmol, 246 μL | CSSC | C2H6S2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 4-[2-(3-chlorophenyl)-7-(methylthio)pyrazolo[1,5-c]pyrimidin-3-yl]-N-cyclopentylpyrimidin-2-amine | 171 mg, 57% | ClC=1C=C(C=CC1)C1=NN2C(=NC=CC2=C1C1=NC(=NC=C1)NC1CCCC1)SC | C22H21ClN6S
